US04211783
A sample of 50 g. of ethyl p-aminocinnamate is dissolved in 500 ml. of ethyl ether and a solution of 28 g. of acetic anhydride in 30 ml. of ether is added dropwise. When the addition is complete, the reaction is allowed to stir for another hour. The mixture is then diluted with hexane and filtered, providing ethyl p-acetamidocinnamate.

reactant | ethyl p-aminocinnamate | NC1=CC=C(C=CC(=O)OCC)C=C1 | C11H13NO2
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | ethyl p-acetamidocinnamate | C(C)(=O)NC1=CC=C(C=CC(=O)OCC)C=C1 | C13H15NO3
